US07615562B2
Step A: 4-(4-Bromo-phenyl)-2-methylsulfanyl-pyrimidine
2-Methylthio-4-tributylstannylpyrimidine (3.5 g, 7.5 mmol), PdCl2 (525 mg, 0.75 mmol) and 1,4-dibromobenzene (5.3 g, 22.5 mmol) were refluxed in xylene (75 ml) for 30 minutes, filtered and poured directly on a column of silicagel. Chromatography (acetone/hexanes:3/97 to 5/95) gave the title compound as white solid, which was crystallized from hexanes. Yield: 1.1 g (52%).

reactant | 2-Methylthio-4-tributylstannylpyrimidine | 7.5 mmol, 3.5 g | CSC1=NC=CC(=N1)[Sn](CCCC)(CCCC)CCCC
reactant | 1,4-dibromobenzene | 22.5 mmol, 5.3 g | BrC1=CC=C(C=C1)Br | C6H4Br2
solvent | xylene | 75 ml | C=1(C(=CC=CC1)C)C | C8H10
catalyst | PdCl2 | 0.75 mmol, 525 mg | Cl[Pd]Cl
product | 4-(4-Bromo-phenyl)-2-methylsulfanyl-pyrimidine | BrC1=CC=C(C=C1)C1=NC(=NC=C1)SC | C11H9BrN2S
